US04221914
A solution of 20 mmole of 1-tosyl-5-imidazolylmethyl fluoromethyl ketone in 25 ml of methanol cooled to -10° C. is treated with 30 mg of sodium borohydride. After two hours at from -10° to 0° C. the reaction mixture is neutralized with 6 M HCl and concentrated under vacuo. The residue is extracted several times with chloroform. Evaporation of the solvent affords an oil which is purified by distillation under high vacuum to give 3-fluoro-1-(1-tosyl-5-imidazolyl)propan-2-ol. A solution of 2 g of 3-fluoro-1-(1-tosyl-5-imidazolyl)propan-2-ol, 1.37 g of phthalimide, 1.74 g of diethylazodicarboxylate in 2.4 g of triphenylphosphine and 25 ml of tetrahydrofuran is stirred under nitrogen at 25° C. for 20 hours after which the solvent is evaporated at reduced pressure and the residue is taken up in benzene. The insoluble material is discarded and the semi-solid residue obtained after concentration of the filtrate under vacuum is recrystallized using dichloromethane/diethylether to give the fluorophthalimide derivative. A solution of 1.12 g of the fluorophthalimide derivative in 0.18 g of hydrazine hydrate in 42 ml of absolute ethanol is heated at reflux for 5 hours. Upon cooling the solution is concentrated under vacuum to a volume of 15 ml, allowed to stand overnight at 0° C. then filtered. The filtrate is concentrated and distilled under high vacuum to afford 1-fluoromethyl-2-(1-tosyl-5-imidazolyl)ethylamine which is combined with 6 ml of 47% hydrogen bromide and heated under nitrogen at 100° C. for 4 hours then concentrated under reduced pressure to give a solid residue. The residue is recrystallized from ethanol-diethylether to give 1-fluoromethyl-2-(5-imidazolyl)ethylamine hydrobromide.

reactant | 1-tosyl-5-imidazolylmethyl fluoromethyl ketone | 20 mmole | FCC(=O)CC1=CN=CN1S(=O)(=O)C1=CC=C(C)C=C1 | C13H13FN2O3S
reactant | sodium borohydride | 30 mg | [BH4-].[Na+]
reactant | HCl | 6 M | Cl | ClH
solvent | methanol | 25 ml | CO | CH4O
product | 3-fluoro-1-(1-tosyl-5-imidazolyl)propan-2-ol | FCC(CC1=CN=CN1S(=O)(=O)C1=CC=C(C)C=C1)O | C13H15FN2O3S
